*****
* CUR_REGS.LIB
* These parts were derived from the Siliconix Low Power Discretes
* data book, 1994.
*****
*
* 1N5283       anode
*              | cathode
*              | |
.subckt 1N5283 1 2
J1 1 2 2 J1N5283
.MODEL J1N5283 NJF (VTO =-2 BETA=54.8793U LAMBDA=181.818U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5284       anode
*              | cathode
*              | |
.subckt 1N5284 1 2
J1 1 2 2 J1N5284
.MODEL J1N5284 NJF (VTO =-2.00001 BETA=59.8556U LAMBDA=219.167U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5285       anode
*              | cathode
*              | |
.subckt 1N5285 1 2
J1 1 2 2 J1N5285
.MODEL J1N5285 NJF (VTO =-2.00001 BETA=67.3174U LAMBDA=264.444U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5286       anode
*              | cathode
*              | |
.subckt 1N5286 1 2
J1 1 2 2 J1N5286
.MODEL J1N5286 NJF (VTO =-2 BETA=74.7754U LAMBDA=370U CGD=8P KF=0.001F
+ AF=500M)
.ends
*
* 1N5287       anode
*              | cathode
*              | |
.subckt 1N5287 1 2
J1 1 2 2 J1N5287
.MODEL J1N5287 NJF (VTO =-2.00001 BETA=82.2279U LAMBDA=460.606U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5288       anode
*              | cathode
*              | |
.subckt 1N5288 1 2
J1 1 2 2 J1N5288
.MODEL J1N5288 NJF (VTO =-2.00002 BETA=97.1186U LAMBDA=625.641U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5289       anode
*              | cathode
*              | |
.subckt 1N5289 1 2
J1 1 2 2 J1N5289
.MODEL J1N5289 NJF (VTO =-2 BETA=107.04U LAMBDA=704.651U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5290       anode
*              | cathode
*              | |
.subckt 1N5290 1 2
J1 1 2 2 J1N5290
.MODEL J1N5290 NJF (VTO =-1.99999 BETA=116.951U LAMBDA=787.234U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5291       anode
*              | cathode
*              | |
.subckt 1N5291 1 2
J1 1 2 2 J1N5291
.MODEL J1N5291 NJF (VTO =-1.99999 BETA=139.221U LAMBDA=787.234U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5292       anode
*              | cathode
*              | |
.subckt 1N5292 1 2
J1 1 2 2 J1N5292
.MODEL J1N5292 NJF (VTO =-1.99999 BETA=154.045U LAMBDA=1.04032M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5293       anode
*              | cathode
*              | |
.subckt 1N5293 1 2
J1 1 2 2 J1N5293
.MODEL J1N5293 NJF (VTO =-1.99999 BETA=168.852U LAMBDA=1.08971M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5294       anode
*              | cathode
*              | |
.subckt 1N5294 1 2
J1 1 2 2 J1N5294
.MODEL J1N5294 NJF (VTO =-2.00004 BETA=186.094U LAMBDA=1.16M CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5295       anode
*              | cathode
*              | |
.subckt 1N5295 1 2
J1 1 2 2 J1N5295
.MODEL J1N5295 NJF (VTO =-1.99999 BETA=203.331U LAMBDA=1.21951M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5296       anode
*              | cathode
*              | |
.subckt 1N5296 1 2
J1 1 2 2 J1N5296
.MODEL J1N5296 NJF (VTO =-1.99998 BETA=225.449U LAMBDA=1.25275M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5297       anode
*              | cathode
*              | |
.subckt 1N5297 1 2
J1 1 2 2 J1N5297
.MODEL J1N5297 NJF (VTO =-2.00004 BETA=247.508U LAMBDA=1.25M CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5298       anode
*              | cathode
*              | |
.subckt 1N5298 1 2
J1 1 2 2 J1N5298
.MODEL J1N5298 NJF (VTO =-1.99998 BETA=272.006U LAMBDA=1.3M CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5299       anode
*              | cathode
*              | |
.subckt 1N5299 1 2
J1 1 2 2 J1N5299
.MODEL J1N5299 NJF (VTO =-1.99995 BETA=296.447U LAMBDA=1.3M CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5300       anode
*              | cathode
*              | |
.subckt 1N5300 1 2
J1 1 2 2 J1N5300
.MODEL J1N5300 NJF (VTO =-2 BETA=320.815U LAMBDA=1.32308M CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* 1N5301       anode
*              | cathode
*              | |
.subckt 1N5301 1 2
J1 1 2 2 J1N5301
.MODEL J1N5301 NJF (VTO =-1.99999 BETA=345.153U LAMBDA=1.32143M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5302       anode
*              | cathode
*              | |
.subckt 1N5302 1 2
J1 1 2 2 J1N5302
.MODEL J1N5302 NJF (VTO =-2.00011 BETA=369.398U LAMBDA=1.30667M
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* 1N5303       anode
*              | cathode
*              | |
.subckt 1N5303 1 2
J1 1 2 2 J1N5303
.MODEL J1N5303 NJF (VTO =-2.00001 BETA=393.671U LAMBDA=1.31875M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5304       anode
*              | cathode
*              | |
.subckt 1N5304 1 2
J1 1 2 2 J1N5304
.MODEL J1N5304 NJF (VTO =-2.00004 BETA=441.99U LAMBDA=1.32222M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5305       anode
*              | cathode
*              | |
.subckt 1N5305 1 2
J1 1 2 2 J1N5305
.MODEL J1N5305 NJF (VTO =-1.99996 BETA=490.169U LAMBDA=1.265M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5306       anode
*              | cathode
*              | |
.subckt 1N5306 1 2
J1 1 2 2 J1N5306
.MODEL J1N5306 NJF (VTO =-2.00001 BETA=538.093U LAMBDA=1.22727M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5307       anode
*              | cathode
*              | |
.subckt 1N5307 1 2
J1 1 2 2 J1N5307
.MODEL J1N5307 NJF (VTO =-2.00002 BETA=585.846U LAMBDA=1.20833M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5308       anode
*              | cathode
*              | |
.subckt 1N5308 1 2
J1 1 2 2 J1N5308
.MODEL J1N5308 NJF (VTO =-2.00005 BETA=657.104U LAMBDA=1.15741M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5309       anode
*              | cathode
*              | |
.subckt 1N5309 1 2
J1 1 2 2 J1N5309
.MODEL J1N5309 NJF (VTO =-1.99997 BETA=728.02U LAMBDA=1.11M CGD=17P
+ KF=0.001F AF=500M)
.ends
*
* 1N5310       anode
*              | cathode
*              | |
.subckt 1N5310 1 2
J1 1 2 2 J1N5310
.MODEL J1N5310 NJF (VTO =-1.99995 BETA=798.477U LAMBDA=1.08182M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5311       anode
*              | cathode
*              | |
.subckt 1N5311 1 2
J1 1 2 2 J1N5311
.MODEL J1N5311 NJF (VTO =-2.00034 BETA=868.168U LAMBDA=1.04722M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5312       anode
*              | cathode
*              | |
.subckt 1N5312 1 2
J1 1 2 2 J1N5312
.MODEL J1N5312 NJF (VTO =-1.99986 BETA=938.191U LAMBDA=1.00513M
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5313       anode
*              | cathode
*              | |
.subckt 1N5313 1 2
J1 1 2 2 J1N5313
.MODEL J1N5313 NJF (VTO =-1.99997 BETA=1.03026M LAMBDA=948.837U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* 1N5314       anode
*              | cathode
*              | |
.subckt 1N5314 1 2
J1 1 2 2 J1N5314
.MODEL J1N5314 NJF (VTO =-1.99994 BETA=1.12173M LAMBDA=906.383U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR160       anode
*             | cathode
*             | |
.subckt CR160 1 2
J1 1 2 2 JCR160
.MODEL JCR160 NJF (VTO =-2.00001 BETA=393.671U LAMBDA=625U CGD=17P
+ KF=0.001F AF=500M)
.ends
*
* CR180       anode
*             | cathode
*             | |
.subckt CR180 1 2
J1 1 2 2 JCR180
.MODEL JCR180 NJF (VTO =-2.00004 BETA=441.99U LAMBDA=583.333U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR200       anode
*             | cathode
*             | |
.subckt CR200 1 2
J1 1 2 2 JCR200
.MODEL JCR200 NJF (VTO =-1.99996 BETA=490.169U LAMBDA=555U CGD=17P
+ KF=0.001F AF=500M)
.ends
*
* CR220       anode
*             | cathode
*             | |
.subckt CR220 1 2
J1 1 2 2 JCR220
.MODEL JCR220 NJF (VTO =-2.00001 BETA=538.093U LAMBDA=550.909U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR240       anode
*             | cathode
*             | |
.subckt CR240 1 2
J1 1 2 2 JCR240
.MODEL JCR240 NJF (VTO =-2.00002 BETA=585.846U LAMBDA=554.167U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR270       anode
*             | cathode
*             | |
.subckt CR270 1 2
J1 1 2 2 JCR270
.MODEL JCR270 NJF (VTO =-2.00005 BETA=657.104U LAMBDA=529.63U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR300       anode
*             | cathode
*             | |
.subckt CR300 1 2
J1 1 2 2 JCR300
.MODEL JCR300 NJF (VTO =-1.99997 BETA=728.02U LAMBDA=513.333U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR330       anode
*             | cathode
*             | |
.subckt CR330 1 2
J1 1 2 2 JCR330
.MODEL JCR330 NJF (VTO =-1.99995 BETA=798.477U LAMBDA=521.212U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR360       anode
*             | cathode
*             | |
.subckt CR360 1 2
J1 1 2 2 JCR360
.MODEL JCR360 NJF (VTO =-2.00034 BETA=868.168U LAMBDA=525U CGD=17P
+ KF=0.001F AF=500M)
.ends
*
* CR390       anode
*             | cathode
*             | |
.subckt CR390 1 2
J1 1 2 2 JCR390
.MODEL JCR390 NJF (VTO =-1.99986 BETA=938.191U LAMBDA=502.564U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR430       anode
*             | cathode
*             | |
.subckt CR430 1 2
J1 1 2 2 JCR430
.MODEL JCR430 NJF (VTO =-1.99997 BETA=1.03026M LAMBDA=495.349U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* CR470       anode
*             | cathode
*             | |
.subckt CR470 1 2
J1 1 2 2 JCR470
.MODEL JCR470 NJF (VTO =-1.99994 BETA=1.12173M LAMBDA=472.34U
+ CGD=17P KF=0.001F AF=500M)
.ends
*
* J500       anode
*            | cathode
*            | |
.subckt J500 1 2
J1 1 2 2 JJ500
.MODEL JJ500 NJF (VTO =-2.00001 BETA=59.8556U LAMBDA=277.917U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J501       anode
*            | cathode
*            | |
.subckt J501 1 2
J1 1 2 2 JJ501
.MODEL JJ501 NJF (VTO =-2.00001 BETA=82.2279U LAMBDA=303.03U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* J502       anode
*            | cathode
*            | |
.subckt J502 1 2
J1 1 2 2 JJ502
.MODEL JJ502 NJF (VTO =-2 BETA=107.04U LAMBDA=341.86U CGD=8P KF=0.001F
+ AF=500M)
.ends
*
* J503       anode
*            | cathode
*            | |
.subckt J503 1 2
J1 1 2 2 JJ503
.MODEL JJ503 NJF (VTO =-1.99999 BETA=139.221U LAMBDA=364.286U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J504       anode
*            | cathode
*            | |
.subckt J504 1 2
J1 1 2 2 JJ504
.MODEL JJ504 NJF (VTO =-2.00004 BETA=186.094U LAMBDA=416.667U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J505       anode
*            | cathode
*            | |
.subckt J505 1 2
J1 1 2 2 JJ505
.MODEL JJ505 NJF (VTO =-2.00004 BETA=247.508U LAMBDA=476U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* J506       anode
*            | cathode
*            | |
.subckt J506 1 2
J1 1 2 2 JJ506
.MODEL JJ506 NJF (VTO =-1.99999 BETA=345.153U LAMBDA=476.429U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J507       anode
*            | cathode
*            | |
.subckt J507 1 2
J1 1 2 2 JJ507
.MODEL JJ507 NJF (VTO =-2.00004 BETA=441.99U LAMBDA=555.556U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* J508       anode
*            | cathode
*            | |
.subckt J508 1 2
J1 1 2 2 JJ508
.MODEL JJ508 NJF (VTO =-2.00002 BETA=585.846U LAMBDA=641.667U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J509       anode
*            | cathode
*            | |
.subckt J509 1 2
J1 1 2 2 JJ509
.MODEL JJ509 NJF (VTO =-1.99997 BETA=728.02U LAMBDA=653.333U CGD=8P
+ KF=0.001F AF=500M)
.ends
*
* J510       anode
*            | cathode
*            | |
.subckt J510 1 2
J1 1 2 2 JJ510
.MODEL JJ510 NJF (VTO =-2.00034 BETA=868.168U LAMBDA=694.444U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* J511       anode
*            | cathode
*            | |
.subckt J511 1 2
J1 1 2 2 JJ511
.MODEL JJ511 NJF (VTO =-1.99994 BETA=1.12173M LAMBDA=759.574U
+ CGD=8P KF=0.001F AF=500M)
.ends
*
* SST502       anode
*              | cathode
*              | |
.subckt SST502 1 2
J1 1 2 2 JSST502
.MODEL JSST502 NJF (VTO=-1.99999 BETA=105.689U LAMBDA=861.395U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST503       anode
*              | cathode
*              | |
.subckt SST503 1 2
J1 1 2 2 JSST503
.MODEL JSST503 NJF (VTO=-2.00007 BETA=137.81U LAMBDA=892.857U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST504       anode
*              | cathode
*              | |
.subckt SST504 1 2
J1 1 2 2 JSST504
.MODEL JSST504 NJF (VTO=-2.00004 BETA=184.924U LAMBDA=888.893U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST505       anode
*              | cathode
*              | |
.subckt SST505 1 2
J1 1 2 2 JSST505
.MODEL JSST505 NJF (VTO=-1.99996 BETA=247.206U LAMBDA=1M CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST506       anode
*              | cathode
*              | |
.subckt SST506 1 2
J1 1 2 2 JSST506
.MODEL JSST506 NJF (VTO=-1.99998 BETA=347.475U LAMBDA=892.857U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST507       anode
*              | cathode
*              | |
.subckt SST507 1 2
J1 1 2 2 JSST507
.MODEL JSST507 NJF (VTO=-1.99999 BETA=448.555U LAMBDA=925.944U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST508       anode
*              | cathode
*              | |
.subckt SST508 1 2
J1 1 2 2 JSST508
.MODEL JSST508 NJF (VTO=-1.99999 BETA=601.711U LAMBDA=1.04167M CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST509       anode
*              | cathode
*              | |
.subckt SST509 1 2
J1 1 2 2 JSST509
.MODEL JSST509 NJF (VTO=-2.00001 BETA=756.715U LAMBDA=1.111M CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST510       anode
*              | cathode
*              | |
.subckt SST510 1 2
J1 1 2 2 JSST510
.MODEL JSST510 NJF (VTO=-2.00003 BETA=913.595U LAMBDA=925.833U CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*
* SST511       anode
*              | cathode
*              | |
.subckt SST511 1 2
J1 1 2 2 JSST511
.MODEL JSST511 NJF (VTO=-2.00012 BETA=1.20611M LAMBDA=1.06383M CGD=1.5P 
+ KF=1.000000e-018 AF=500M)
.ends
*

