* MODEL FOR IDEAL DIODE
.MODEL D D(N=0.001)

*MODEL FOR DIODE WITH FORWARD RESISTANCE
.SUBCKT   D_R   A   C
RD A 1 {value}
D1 1 C D
.MODEL D D(N=0.001)
.ENDS

*MODEL FOR DIODE WITH FORWARD VOLTAGE
.SUBCKT   D_V   A   C
VD A 1 {value}
D1 1 C D
.MODEL D D(N=0.001)
.ENDS

*MODEL FOR DIODE WITH FORWARD RESISTANCE AND VOLTAGE
.SUBCKT   D_RV   A   C
RD A 1 {value}
VD 1 2 {value}
D1 2 C D
.MODEL D D(N=0.001)
.ENDS

*MODEL FOR SIMPLE ZENER DIODE
.SUBCKT   D_Z   A   C
D1 A C D
D2 1 A D
.MODEL D D(N=0.001)
VZ C   1  {value}
.ENDS

*MODEL FOR ZENER DIODE WITH FORWARD VOLTAGE
.SUBCKT   D_ZV   A   C
D1 A 1 D
VD 1 C {value}
D2 1 A D
.MODEL D D(N=0.001)
VZ C   1  {value}
.ENDS
